US07276612B2
Synthesis of N-hydroxy-4-[2-(benzofuran-2-ylcarbonylamino)ethylsulfanyl]-benzamide
To a solution of methyl 4-{2-[(benzofuran-2-yl-carbonyl)amino]ethylsulfanyl}-benzoate in THF (2 ml) was added a solution of 50% hydroxylamine in water (4 ml). Methanol (2 ml) and 0.1 M NaOH (0.1 ml) were added. The reaction mixture was stirred for three days at room temperature. The solvents were evaporated and the residue was crystallized from dichloromethane/ethyl acetate, to give the title compound (46 mg).

reactant | methyl 4-{2-[(benzofuran-2-yl-carbonyl)amino]ethylsulfanyl}-benzoate | O1C(=CC2=C1C=CC=C2)C(=O)NCCSC2=CC=C(C(=O)OC)C=C2 | C19H17NO4S
reactant | hydroxylamine | NO | H3NO
reactant | Methanol | 2 ml | CO | CH4O
reactant | NaOH | 0.1 M, 0.1 ml | [OH-].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | N-hydroxy-4-[2-(benzofuran-2-ylcarbonylamino)ethylsulfanyl]-benzamide | 46 mg | ONC(C1=CC=C(C=C1)SCCNC(=O)C=1OC2=C(C1)C=CC=C2)=O | C18H16N2O4S
